Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neutropenia
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ year-old female with past medical history
significant for ETOH/Hemochromotosis related cirrhosis who
presents with acute onset neutropenia. 

Of note, patient has history of elevated liver enzymes as far
back as ___. At the time, this was thought to be secondary to
hepatic steatosis. Patient notes that she had a seizure in 
___
that happened spontaneously. She saw neurology and had head MRI
that was normal. She was started on keppra 500mg BID that was
later decreased to 250mg BID. She notes that she stopped 
drinking
at that time, however she was vague in quantitating her drinking
then. Autoimmune hepatitis panel was sent and was negative in 
the
past. Given elevated ferritin, genetic testing was sent in 
___
that showed that she was heterozygous for the ___ and H63D
mutations for HFE. Given that she was found to be a compound
heterozygote, she started therapeutic phlebotomy. She was 
started
on lactulose, although reportedly has not had a history of
hepatic encephalopathy. 

She had labs drawn on ___ that demonstrated ANC of 400.
She also complained of transient RUQ pain. She was sent in by 
her
PCP for evaluation for sepsis and peritonitis causing drop in
counts. She has been taking her medications as prescribed and
noticed decrease in ascites. She first noticed development of
ascites 3 days after her first seizure. 

In the ED, initial vitals:  
- Exam notable for: 98.2 81 ___ 16 100% RA 
- Labs notable for:
       13.0
  4.8 >----< 148
       37.9

   128|92|16
   ---------< 150
   4.5|21|1.0

   ALT 19 AST 23 AP 74 bili 0.8 alb 3.4

   Lip 89

   INR 1.3
  
- Imaging notable for:  
RUQUS
1. Cirrhotic liver, without evidence of focal lesion.
2. No evidence of splenomegaly. Multiple subcentimeter splenic
lesions are likely hemangiomas.
3. Trace ascites.

- Pt given:  
+ 1L NS

- Vitals prior to transfer:  
97.8 77 94/67 15 100% RA 

On the floor, patient denies abdominal pain. Denies fever,
chills, or night sweats. Denies nausea or vomiting. 
 
Past Medical History:
HTN
Asthma
Seizure
Hereditary hemochromatosis
Cirrhosis of liver with ascites

 
Social History:
___
Family History:
No family history of liver disease or cirrhosis. 

 
Physical Exam:
ADMISSION EXAM:
===============
General: Well appearing, lying comfortably in bed with husband 
at
bedside. 
HEENT: MMM, EOMI, PERRLA. 
Neck: No JVD. No lymphadenopathy. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops. 
Lungs: CTAB.   
Abdomen: Soft, non-tender, non-distended, no organomegaly. No
rebound or guarding. 
Ext: Warm, well perfused, 2+ pulses. No edema. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities. No
asterixis. 

DISCHARGE EXAM:
===============
General: Well-appearing, in NAD.
HEENT: NC/AT, anicteric sclera, clear oropharynx, MMM.
CV: RRR, S1, S2, no murmurs/rubs/gallops.
Lungs: CTAB with no wheezes, crackles, or rhonchi.
Abdomen: Soft, non-tender, non-distended.
Ext: No ___ edema.
Neuro: AOx3. Motor exam full.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:45PM BLOOD WBC-4.8 RBC-3.92 Hgb-13.0 Hct-37.9 MCV-97 
MCH-33.2* MCHC-34.3 RDW-11.4 RDWSD-40.4 Plt ___
___ 09:45PM BLOOD ___ PTT-36.3 ___
___ 09:45PM BLOOD Glucose-150* UreaN-16 Creat-1.0 Na-128* 
K-4.5 Cl-92* HCO3-21* AnGap-15
___ 09:45PM BLOOD ALT-19 AST-23 AlkPhos-74 TotBili-0.8
___ 09:45PM BLOOD Albumin-3.4*
___ 04:05AM BLOOD VitB12-425 Folate-6
___ 12:00AM BLOOD HIV Ab-NEG
___ 09:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:00AM BLOOD CMV VL-NOT DETECT

DISCHARGE LABS:
===============
___ 04:10AM BLOOD WBC-5.3 RBC-3.79* Hgb-12.4 Hct-37.0 
MCV-98 MCH-32.7* MCHC-33.5 RDW-11.4 RDWSD-41.1 Plt ___
___ 04:10AM BLOOD Plt Smr-LOW* Plt ___
___ 04:10AM BLOOD UreaN-11 Creat-0.8 Na-134* K-4.1 Cl-98 
HCO3-25 AnGap-11
___ 04:10AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.___ with history of EtOH/hemochromatosis-related cirrhosis who 
presents with acute-onset neutropenia, thought most likely to be 
medication-induced ___ home spironolactone or furosemide. These 
medications were held on admission, and her ANC had improved to 
1210 by the time of discharge.

ACUTE ISSUES:
=============
#Acute-onset neutropenia
Per Atrius records, neutropenia developed acutely between ___ 
(___ 3270) and ___ (___ 500). Unclear etiology but most likely 
medication-induced as patient has had no localizing signs or 
symptoms c/f infection. She recently started Lasix and 
spironolactone in ___, and her WBC was noted to begin 
dropping shortly after initiating these medications. Both have 
been shown to cause neutropenia, though rarely. In terms of 
infectious etiologies, HIV was NR, EBV negative, Toxoplasma IgG 
positive but IgM negative. Blood cultures were negative, and 
RUQUS showed trace ascites without biliary pathology. Patient 
was seen by At___ Hematology while admitted. Lasix and 
spironolactone were held on admission and on discharge, and the 
patient's ANC was noted to increase to 1210 without additional 
interventions. CMV VL was still pending. 

#EtOH/HFE cirrhosis
Child class B, MELD-Na ~___. Patient was diagnosed with cirrhosis 
in ___, thought ___ alcohol and hemochromatosis (compound 
heterozygote). Admission RUQUS showed trace non-tappable 
ascites, and she received IV albumin 50g. Her diuretics were 
held as above. She was continued on home lactulose. Patient will 
need a screening EGD if she has not yet received one.

#Hyponatremia
Noted as an outpatient in the setting of increased diuretic 
dosing, likely hypovolemic hyponatremia rather than 
diuretic-refractory hyponatremia given improvement s/p IVF on 
admission. Discharge Na 134.

CHRONIC ISSUES:
===============
#H/o seizure
Seizure in ___, which may have developed in the setting of 
alcohol withdrawal. She was continued on levetiracetam 250mg 
BID. She has follow-up with At___ Neurology on ___. Due to 
her hospitalization, she missed an outpatient EEG appointment; 
she was counseled around rescheduling.

#Insomnia
- continued trazodone PRN

#HTN
- continued on home diltiazem and HCTZ at the time of discharge

TRANSITIONAL ISSUES:
====================
- Home furosemide, spironolactone, and potassium chloride were 
held on this admission and at discharge for c/f causing 
neutropenia.
[] Patient was given a script to obtain outpatient labs on ___ 
or ___.
[] Please follow up pending labs at discharge: CMV VL.
[] Please consider screening EGD if patient has not yet received 
one.
[] Please consider reinitiating diuretics if needed (possibly 
sequentially to monitor for development of neutropenia with 
either agent).
[] Patient reports side effects related to Keppra. She has an 
appointment with Atrius Neurology on ___. Please consider 
whether an AED is needed given possible h/o alcohol 
withdrawal-related seizure or whether Keppra can be switched to 
another agent. Patient was also counseled around rescheduling 
outpatient EEG as she missed her appointment while admitted.

Contact: ___ (husband), ___ 
Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. Potassium Chloride 20 mEq PO DAILY 
3. Furosemide 60 mg PO DAILY 
4. Spironolactone 150 mg PO DAILY 
5. Lactulose 15 mL PO TID 
6. LevETIRAcetam 250 mg PO BID 
7. Thiamine 100 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Diltiazem Extended-Release 360 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Diltiazem Extended-Release 360 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Lactulose 15 mL PO TID  
4.  LevETIRAcetam 250 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Thiamine 100 mg PO DAILY  
7.  TraZODone 50 mg PO QHS:PRN insomnia  
8. HELD- Furosemide 60 mg PO DAILY  This medication was held. Do 
not restart Furosemide until instructed to by your doctor
9. HELD- Potassium Chloride 20 mEq PO DAILY  This medication was 
held. Do not restart Potassium Chloride until instructed to by 
your doctor
10. HELD- Spironolactone 150 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until instructed to by your 
doctor
11.Outpatient Lab Work
Please obtain CBC with differential, BMP, magnesium, and LFT's 
(AST/ALT, alkaline phosphatase, total bilirubin) on ___ or 
___. Please fax results to Dr. ___ at ___. ICD-9: 
288.00

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Neutropenia
Hyponatremia
EtOH/HFE cirrhosis

SECONDARY DIAGNOSES:
====================
HTN
H/o seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You were admitted to the hospital because you were found to 
have neutropenia, a lower-than-normal neutrophil count. 
Neutrophils are white blood cells that help fight infections.

What did you receive in the hospital?
- We believe that the neutropenia may have been caused by one of 
your medications, specifically furosemide or spironolactone. We 
did not give you these medications in the hospital, and your 
neutrophil count recovered on its own.
- The other studies that we performed to evaluate for any 
infectious cause of the neutropenia have so far returned 
negative.

What should you do once you leave the hospital?
- If you develop a fever, come to the emergency room immediately 
for evaluation.
- Please do not take spironolactone, furosemide, or potassium 
chloride until instructed to by your doctor.
- Please get labs drawn next ___ or ___ the results will 
be faxed to your primary care doctor.
- Please reschedule your EEG appointment prior to your scheduled 
Neurology appointment on ___.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___